US06703392B2
N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3-methoxyphenyl-acetamide:
prepared by reaction of 3,4-dimethoxyphenylethylamine with 3-methoxyphenyl acetyl chloride.

reactant | 3,4-dimethoxyphenylethylamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | 3-methoxyphenyl acetyl chloride | COC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO2
product | N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3-methoxyphenyl-acetamide | COC=1C=C(C=CC1OC)CCNC(CC1=CC(=CC=C1)OC)=O | C19H23NO4
